US08748443B2
Part A. Preparation of 2-tert-butyl-4-iodoaniline
In a 500 mL round-bottomed flask was combined 2-tert-butylaniline (7.46 g, 50 mmol) and sodium bicarbonate (7.56 g, 90 mmol) in water (50 mL). The mixture was cooled to 0° C. and iodine (12.69 g, 50.0 mmol) was added portion-wise over 20 minutes. The mixture was stirred for 16 hours at room temperature, partitioned between ethyl acetate and 10% aqueous sodium thiosulfate and stirred vigorously for 20 minutes. The ethyl acetate layer was washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to give a dark oil that was purified on an Isco 120 g silica cartridge eluting with ethyl acetate/hexane (0% to 10%) to give the title compound.

reactant | 2-tert-butylaniline | 50 mmol, 7.46 g | C(C)(C)(C)C1=C(N)C=CC=C1 | C10H15N
reactant | sodium bicarbonate | 90 mmol, 7.56 g | C([O-])(O)=O.[Na+]
reactant | iodine | 50.0 mmol, 12.69 g | II | I2
solvent | water | 50 mL | O | H2O
product | 2-tert-butyl-4-iodoaniline | C(C)(C)(C)C1=C(N)C=CC(=C1)I | C10H14IN
